US06562811B1
To a cooled (0° C.), stirred solution of tert-butyl 3-(2-amino-6-{2-amino-6-[(4-methoxybenzyl)oxy]phenyl}-3-cyano-4-pyridinyl)-1-piperidinecarboxylate (0.10 g, 0.189 mmol) obtained in the step (1) of Example 1-11 in dichloromethane (10 mL) including triethylamine (0.02 g, 0.227 mmol) was added acetic anhydride (0.08 g, 0.889 mmol).The stirring was continued at 0° C. for 5 hrs. The mixture was allowed to warm to room temperature, and the stirring was continued for 30 min. The reaction was quenched with water and extracted with ethyl acetate. The organic phase was washed with brine and dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-1/1-1/2) to give tert-butyl 3-(6-{2-(acetylamino)-6-[(4-methoxybenzyl)oxy]phenyl}-2-amino-3-cyano-4-pyridinyl)-1-piperidine-carboxylate as a pale yellow oil (0.102 g, yield; 94.5%).

reactant | tert-butyl 3-(2-amino-6-{2-amino-6-[(4-methoxybenzyl)oxy]phenyl}-3-cyano-4-pyridinyl)-1-piperidinecarboxylate | 0.189 mmol, 0.10 g | NC1=NC(=CC(=C1C#N)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)N | C30H35N5O4
reactant | triethylamine | 0.227 mmol, 0.02 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.889 mmol, 0.08 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(6-{2-(acetylamino)-6-[(4-methoxybenzyl)oxy]phenyl}-2-amino-3-cyano-4-pyridinyl)-1-piperidine-carboxylate | 0.102 g, yield; 94.5% | C(C)(=O)NC1=C(C(=CC=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C(=N1)N)C#N)C1CN(CCC1)C(=O)OC(C)(C)C | C32H37N5O5
